### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization): localization of algebra maps and commutation with kernels

### PR DESCRIPTION
**Pull request by chrisflav**
Adds API for localizing algebra maps, in general form and specialized to `IsLocalization.Away`. Also shows that localization commutes with kernels.

---

- [x] depends on: #14751

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Finiteness.lean [hunk 1]
```diff
@@ -145,3 +146,28 @@ theorem of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
...
+
+end Module.Finite
+
+variable {R : Type u} [CommRing R] {S : Type v} [CommRing S] {f : R →+* S}
+
+/--
+To check that the kernel of a ring homomorphism is finitely generated,
+it suffices to check this after localizing at a spanning set of the source.
+-/
+lemma RingHom.ker_FG_of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Finiteness.lean:158]:
```suggestion
lemma RingHom.ker_fg_of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
```

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 2]
```diff
@@ -105,6 +105,49 @@ noncomputable def map (f : R →+* P) (r : R) [IsLocalization.Away r S]
...
+section Algebra
+
+variable {A : Type*} [CommRing A] [Algebra R A]
+variable {B : Type*} [CommRing B] [Algebra R B]
+variable (Aₚ : Type*) [CommRing Aₚ] [Algebra A Aₚ] [Algebra R Aₚ] [IsScalarTower R A Aₚ]
+variable (Bₚ : Type*) [CommRing Bₚ] [Algebra B Bₚ] [Algebra R Bₚ] [IsScalarTower R B Bₚ]
+
+/-- Given a algebra map `f : A →ₐ[R] B` and an element `a : A`, we may construct a map
+`Aₐ →ₐ[R] Bₐ`. -/
+noncomputable def mapₐ (f : A →ₐ[R] B) (a : A) [Away a Aₚ] [Away (f a) Bₚ] : Aₚ →ₐ[R] Bₚ :=
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Away/Basic.lean:117]: This is already in the `IsLocalization.Away` namespace (analogous to `IsLocalization.Away.map`). The one below is already called as you suggest.

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 3]
```diff
@@ -105,6 +105,49 @@ noncomputable def map (f : R →+* P) (r : R) [IsLocalization.Away r S]
...
+  ⟨map Aₚ Bₚ f.toRingHom a, by
+    intro r
+    simp only [AlgHom.toRingHom_eq_coe, RingHom.toMonoidHom_eq_coe, OneHom.toFun_eq_coe,
+      MonoidHom.toOneHom_coe, MonoidHom.coe_coe, IsScalarTower.algebraMap_eq R A Aₚ,
+      RingHom.coe_comp, Function.comp_apply, ← IsLocalization.mk'_one (M := Submonoid.powers a) Aₚ]
+    simp only [map, RingHom.coe_coe, map_mk', AlgHom.commutes, OneMemClass.coe_one, map_one]
+    erw [IsLocalization.mk'_one]
+    rw [IsScalarTower.algebraMap_eq R B Bₚ]
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Away/Basic.lean:125]: Modulo `IsScalarTower.algebraMap_eq`, yes. But also only with `erw`. Changed.

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 4]
```diff
@@ -0,0 +1,173 @@
...
+  · rintro ⟨r, hr, rfl⟩
+    simp only [Submonoid.mem_map]
+    use (algebraMap R A r)
+    simp only [AlgHom.commutes, and_true]
+    use r
+
+lemma algebraMapSubmonoid_le_comap (f : A →ₐ[R] B) :
+    Algebra.algebraMapSubmonoid A M ≤ (Algebra.algebraMapSubmonoid B M).comap f.toRingHom := by
+  rw [← map_algebraMapSubmonoid_eq M f]
+  exact Submonoid.le_comap_map (Algebra.algebraMapSubmonoid A M)
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:115]: Are there better places for these to go?

**Comment by erdOne** [comment]
Sorry forgot about this PR.
Please merge master in case the localization refactor causes some conflicts.

File: Mathlib/RingTheory/Localization/Algebra.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Algebra.lean]: I moved them.

**Comment by chrisflav** [comment]
Anything else I should address? @erdOne

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 5]
```diff
@@ -0,0 +1,157 @@
...
+    simp only [AddSubmonoid.coe_add, Submodule.coe_toAddSubmonoid, map_add, AddSubmonoid.mk_add_mk]
+  map_smul' a x := by
+    simp only [SetLike.val_smul, smul_eq_mul, map_mul, RingHom.id_apply,
+      SetLike.mk_smul_of_tower_mk, Algebra.smul_def]
+
+@[simp]
+lemma RingHom.toKerIsLocalization_apply (hy : M ≤ Submonoid.comap g T) (r : RingHom.ker g) :
+    (RingHom.toKerIsLocalization S Q g hy r).val = algebraMap R S r :=
+  rfl
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:46]: IMO a better way here is (needs `import Mathlib.RingTheory.Localization.Ideal`)
```
lemma IsLocalization.mk'_mem_map_algebraMap (I : Ideal R) (x : R) (s : M) :
    IsLocalization.mk' S x s ∈ I.map (algebraMap R S) ↔ ∃ s ∈ M, s * x ∈ I := by
  rw [← Ideal.unit_mul_mem_iff_mem _ (IsLocalization.map_units S s), IsLocalization.mk'_spec',
    IsLocalization.mem_map_algebraMap_iff M]
  simp_rw [← map_mul, IsLocalization.eq_iff_exists M, mul_comm x, ← mul_assoc, ← Submonoid.coe_mul]
  exact ⟨fun ⟨⟨y, t⟩, c, h⟩ ↦ ⟨_, (c * t).2, h ▸ I.mul_mem_left c.1 y.2⟩, fun ⟨s, hs, h⟩ ↦
    ⟨⟨⟨_, h⟩, ⟨s, hs⟩⟩, 1, by simp⟩⟩

lemma IsLocalization.ker_map (hT : Submonoid.map g M = T) :
    RingHom.ker (IsLocalization.map Q g (hT.symm ▸ M.le_comap_map) : S →+* Q) =
      (RingHom.ker g).map (algebraMap R S) := by
  ext x
  obtain ⟨x, s, rfl⟩ := IsLocalization.mk'_surjective M x
  simp [RingHom.mem_ker, IsLocalization.map_mk', IsLocalization.mk'_eq_zero_iff,
    IsLocalization.mk'_mem_map_algebraMap, ← hT]
```
and then show that `I.map (algebraMap R S)` is the localization of `I` (unsure if we have it or not).

File: Mathlib/RingTheory/Localization/Finiteness.lean [hunk 6]
```diff
@@ -149,3 +150,26 @@ theorem of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
...
+
+variable {R : Type u} [CommRing R] {S : Type v} [CommRing S] {f : R →+* S}
+
+/--
+To check that the kernel of a ring homomorphism is finitely generated,
+it suffices to check this after localizing at a spanning set of the source.
+-/
+lemma RingHom.ker_fg_of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
+    (H : ∀ g : t, (RingHom.ker (Localization.awayMap f g.val)).FG) :
+    (RingHom.ker f).FG := by
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Finiteness.lean:178]: Done.

File: Mathlib/RingTheory/Localization/Algebra.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Algebra.lean:82]: Please check if what I did was what you wanted.

File: Mathlib/Algebra/Module/Submodule/Localization.lean [hunk 7]
```diff
@@ -113,3 +118,50 @@ instance IsLocalizedModule.toLocalizedQuotient' (M' : Submodule R M) :
...
+    ker g →ₗ[R] ker (IsLocalizedModule.map p f f' g) where
+  toFun x := ⟨f x, by simp [LinearMap.mem_ker, LinearMap.mem_ker.mp x.property]⟩
+  map_add' x y := by
+    simp only [AddSubmonoid.coe_add, Submodule.coe_toAddSubmonoid, map_add, AddSubmonoid.mk_add_mk]
+  map_smul' a x := by
+    simp only [SetLike.val_smul, LinearMapClass.map_smul, RingHom.id_apply, SetLike.mk_smul_mk]
+
+/-- The canonical map to the kernel of the localization of `g` is localizing.
+In other words, localization commutes with kernels. -/
+lemma LinearMap.toKerLocalized_isLocalizedModule (g : M →ₗ[R] P) :
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Localization.lean:160]: Can this be an instance?

File: Mathlib/Algebra/Module/Submodule/Localization.lean [hunk 8]
```diff
@@ -113,3 +118,50 @@ instance IsLocalizedModule.toLocalizedQuotient' (M' : Submodule R M) :
...
+This is a localization map by `LinearMap.toKerLocalized_isLocalizedModule`.
+-/
+@[simps]
+def LinearMap.toKerIsLocalized (g : M →ₗ[R] P) :
+    ker g →ₗ[R] ker (IsLocalizedModule.map p f f' g) where
+  toFun x := ⟨f x, by simp [LinearMap.mem_ker, LinearMap.mem_ker.mp x.property]⟩
+  map_add' x y := by
+    simp only [AddSubmonoid.coe_add, Submodule.coe_toAddSubmonoid, map_add, AddSubmonoid.mk_add_mk]
+  map_smul' a x := by
+    simp only [SetLike.val_smul, LinearMapClass.map_smul, RingHom.id_apply, SetLike.mk_smul_mk]
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Localization.lean:156]:
```suggestion
    ker g →ₗ[R] ker (IsLocalizedModule.map p f f' g) :=
  f.restrict (fun x hx ↦ by simp [LinearMap.mem_ker, LinearMap.mem_ker.mp hx])
```
Not tested

File: Mathlib/Algebra/Module/Submodule/Localization.lean [hunk 9]
```diff
@@ -113,3 +118,50 @@ instance IsLocalizedModule.toLocalizedQuotient' (M' : Submodule R M) :
...
+
+section LinearMap
+
+variable {P : Type w} [AddCommGroup P] [Module R P]
+variable {Q : Type w'} [AddCommGroup Q] [Module R Q] [Module S Q] [IsScalarTower R S Q]
+variable (f' : P →ₗ[R] Q) [IsLocalizedModule p f']
+
+lemma LinearMap.localized'_ker_eq_ker_localizedMap (g : M →ₗ[R] P) :
+    Submodule.localized' S p f (LinearMap.ker g) =
+      LinearMap.ker ((IsLocalizedModule.map p f f' g).extendScalarsOfIsLocalization p S) := by
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Localization.lean:130]: Can you provide a version `LinearMap.ker (IsLocalizedModule.map p f f' g) = ((LinearMap.ker g).localized' S p f).restrictScalars _`?

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 10]
```diff
@@ -908,3 +908,16 @@ lemma coe_ideal_map (I : Ideal A) :
...
+namespace Algebra
+
+variable {R : Type*} [CommSemiring R] (S : Type*) [Semiring S] [Algebra R S]
+
+/-- The induced linear map from `I` to the span of `I` in an `R`-algebra `S`. -/
+@[simps]
+def idealMap (I : Ideal R) : I →ₗ[R] I.map (algebraMap R S) where
+  toFun x := ⟨algebraMap R S x, Ideal.apply_coe_mem_map (algebraMap R S) I x⟩
+  map_add' x y := by simp
+  map_smul' a x := by simp [Algebra.smul_def]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Maps.lean:921]:
```suggestion
def idealMap (I : Ideal R) : I →ₗ[R] I.map (algebraMap R S) :=
  (Algebra.linearMap R S).restrict (q := (I.map (algebraMap R S)).restrictScalars R)
    (fun _ ↦ Ideal.mem_map_of_mem)
```
Not tested.

**Review by erdOne — COMMENTED** [review]
I've reviewed everything except `Mathlib/RingTheory/Localization/Algebra.lean` and `Mathlib/RingTheory/Localization/Finiteness.lean`. If you split the rest into a new PR I'll happily maintainer merge it after the comments are addressed.

File: Mathlib/Algebra/Module/Submodule/Localization.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/Algebra/Module/Submodule/Localization.lean:160]: I don't think so since `S` can't be inferred (it says `cannot find synthesization order for instance @toKerLocalized_isLocalizedModule with type ...`)

File: Mathlib/Algebra/Module/Submodule/Localization.lean (hunk 8 above)
Comment (chrisflav) [reply Mathlib/Algebra/Module/Submodule/Localization.lean:156]: Works as is! (Irrelevant side node: Lean needs a `noncomputable` with your version (since `IsLocalizedModule.map` is `noncomputable`), but not with the explicit one. Is this expected?)

**Comment by chrisflav** [comment]
I opened #14751 with the changes to the two files removed.

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+    · ext y
+      simp [φ, Algebra.smul_def, ← mul_assoc]
+  surj' y := by
+    obtain ⟨x, hx⟩ := (IsLocalization.mem_map_algebraMap_iff M S).mp y.property
+    use x
+    apply Subtype.ext
+    simp [Submonoid.smul_def, Algebra.smul_def, mul_comm, hx]
+  exists_of_eq h := by
+    obtain ⟨c, hc⟩ := IsLocalization.exists_of_eq (M := M) (congrArg Subtype.val h)
+    exact ⟨c, Subtype.ext hc⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:57]:
```suggestion
open IsLocalization in
variable (M S) in
/-- The span of `I` in a localization of `R` at `M` is the localization of `I` at `M`. -/
instance Algebra.idealMap_isLocalizedModule (I : Ideal R) :
    IsLocalizedModule M (Algebra.idealMap I (S := S)) where
  map_units x :=
    (Module.End_isUnit_iff _).mpr ⟨fun a b e ↦ Subtype.ext ((map_units S x).mul_right_injective
      (by simpa [Algebra.smul_def] using congr(($e).1))),
      fun a ↦ ⟨⟨_, Ideal.mul_mem_left _ (map_units S x).unit⁻¹.1 a.2⟩,
        Subtype.ext (by simp [Algebra.smul_def, ← mul_assoc])⟩⟩
  surj' y :=
    have ⟨x, hx⟩ := (mem_map_algebraMap_iff M S).mp y.property
    ⟨x, Subtype.ext (by simp [Submonoid.smul_def, Algebra.smul_def, mul_comm, hx])⟩
  exists_of_eq h := ⟨_, Subtype.ext (exists_of_eq congr(($h).1)).choose_spec⟩
```
If you enjoy golfs.

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 12]
```diff
@@ -0,0 +1,161 @@
...
+
+lemma IsLocalization.ker_map (hT : Submonoid.map g M = T) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:59]: This should go near `IsLocalization.map`

File: Mathlib/RingTheory/Localization/Finiteness.lean [hunk 13]
```diff
@@ -149,3 +150,33 @@ theorem of_localizationSpan (t : Set R) (ht : Ideal.span t = ⊤)
...
+
+/-- If `I` is an ideal such that there exists a set `{ r }` of `R` such
+that the image of `I` in `Rᵣ` is finitely generated for each `r`, then `I` is finitely
+generated. -/
+lemma fg_of_localizationSpan {I : Ideal R} (t : Set R) (ht : Ideal.span t = ⊤)
+    (H : ∀ (g : t), (I.map (algebraMap R (Localization.Away g.val))).FG) : I.FG := by
+  apply Module.Finite.iff_fg.mp
+  let k (g : t) : I →ₗ[R] (I.map (algebraMap R (Localization.Away g.val))) :=
+    Algebra.idealMap I (S := Localization.Away g.val)
+  apply Module.Finite.of_localizationSpan' t ht k (fun g ↦ Module.Finite.iff_fg.mpr (H g))
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Finiteness.lean:166]:
```suggestion
  exact Module.Finite.of_localizationSpan' t ht k (fun g ↦ Module.Finite.iff_fg.mpr (H g))
```

File: Mathlib/RingTheory/Localization/Algebra.lean (hunk 12 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Algebra.lean:47]: This needs `Mathlib.RingTheory.Localization.Ideal` (and the `Localization.Basic` file does not even know kernels of ring homs). The `Ideal` file does not currently talk about `IsLocalization.map`, should I still move it there?

Comment (erdOne) [reply Mathlib/RingTheory/Localization/Algebra.lean:47]: I think putting it in the `Ideal` file makes sense.

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 14]
```diff
@@ -0,0 +1,149 @@
...
+variable {Aₚ : Type v'} [CommRing Aₚ] [Algebra R Aₚ] [Algebra A Aₚ] [IsScalarTower R A Aₚ]
+  [IsLocalization (Algebra.algebraMapSubmonoid A M) Aₚ]
+variable {Bₚ : Type v'} [CommRing Bₚ] [Algebra R Bₚ] [Algebra B Bₚ] [IsScalarTower R B Bₚ]
+  [IsLocalization (Algebra.algebraMapSubmonoid B M) Bₚ]
+variable [Algebra Rₚ Aₚ] [Algebra Rₚ Bₚ] [IsScalarTower R Rₚ Aₚ] [IsScalarTower R Rₚ Bₚ]
+
+namespace IsLocalization
+
+/-- An algebra map `A →ₐ[R] B` induces an algebra map on localizations `Aₚ →ₐ[Rₚ] Bₚ`. -/
+noncomputable def mapₐ (f : A →ₐ[R] B) : Aₚ →ₐ[Rₚ] Bₚ :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:97]: Should `Rₚ Aₚ Bₚ` be explicit in this?

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 15]
```diff
@@ -0,0 +1,149 @@
...
+  ⟨IsLocalization.map Bₚ f.toRingHom (Algebra.algebraMapSubmonoid_le_comap M f), fun r ↦ by
+    obtain ⟨a, m, rfl⟩ := IsLocalization.mk'_surjective M r
+    simp [algebraMap_mk' (S := A), algebraMap_mk' (S := B), map_mk']⟩
+
+@[simp]
+lemma mapₐ_apply (f : A →ₐ[R] B) (x : Aₚ) :
+    (mapₐ M f : Aₚ →ₐ[Rₚ] Bₚ) x = map Bₚ f.toRingHom (algebraMapSubmonoid_le_comap M f) x :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:104]:
```suggestion
    ((mapₐ M f : Aₚ →ₐ[Rₚ] Bₚ) : Aₚ → Bₚ) = map Bₚ f.toRingHom (algebraMapSubmonoid_le_comap M f) :=
```

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 16]
```diff
@@ -0,0 +1,149 @@
...
+  rfl
+
+lemma isLocalization_algebraMapSubmonoid_map_algHom (f : A →ₐ[R] B) :
+    IsLocalization ((algebraMapSubmonoid A M).map f.toRingHom) Bₚ := by
+  erw [algebraMapSubmonoid_map_eq M f]
+  infer_instance
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Algebra.lean:110]: Can you move this before `mapₐ`?

File: Mathlib/RingTheory/Localization/Algebra.lean (hunk 12 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Algebra.lean:47]: Okay, I leave it here then.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by semorrison** [comment]
bors merge
